US08377938B2
Production Example 2-3)4-(4-Amino-2,5-difluorophenoxy)pyridine-2-carboxyamide
After dissolving 4-amino-2,5-difluorophenol (4.95 g) in dimethyl sulfoxide (50 ml) under a nitrogen stream, potassium tert-butoxide (4.05 g) was added at room temperature and the mixture was stirred for 25 minutes. After adding 4-chloropyridine-2-carboxyamide (2.70 g) to the mixture, stirring was continued at 80° C. for 2.5 hours. After cooling the reaction mixture to room temperature, a 1N aqueous solution of sodium hydroxide (74.25 ml) was added and stirring was continued for 10 hours. The precipitated solid was collected by filtration and washed with water. The solid was dried with warm air at 100° C. for 24 hours to give the title compound (3.38 g, 74%) as purple powder.

reactant | 4-amino-2,5-difluorophenol | 4.95 g | NC1=CC(=C(C=C1F)O)F | C6H5F2NO
reactant | potassium tert-butoxide | 4.05 g | CC(C)([O-])C.[K+]
reactant | 4-chloropyridine-2-carboxyamide | 2.70 g | ClC1=CC(=NC=C1)CC(=O)N | C7H7ClN2O
reactant | sodium hydroxide | 74.25 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(4-Amino-2,5-difluorophenoxy)pyridine-2-carboxyamide | 3.38 g, 74% | NC1=CC(=C(OC2=CC(=NC=C2)CC(=O)N)C=C1F)F | C13H11F2N3O2
